US04957928
21 ml (42 mmol) of 2N sodium hydroxide solution are added at room temperature while stirring to a solution of 2.99 g (10 mmol) of N-[2-(chroman-3-yl)ethyl]-N-(2-methoxycarbonylethyl)-amine hydrochloride in 60 ml of methanol. After 5 minutes, 40 ml of water are added to the reaction mixture which is then stirred for 30 minutes at 50°-60°. After cooling, the mixture is concentrated by evaporation in vacuo. The residue is dissolved in 30 ml of water, and then 10 ml of hydrochloric acid (36% strength) are added and the whole is cooled in an ice bath. The crystals formed are filtered off with suction. 2.5 g (87.5%) of N-[2-(chroman-3-yl)ethyl]-N-(2-carboxyethyl)-amine hydrochloride are obtained (m.p. 186°-188°).

reactant | sodium hydroxide | 42 mmol, 2N, 21 ml | [OH-].[Na+]
reactant | N-[2-(chroman-3-yl)ethyl]-N-(2-methoxycarbonylethyl)-amine hydrochloride | 10 mmol, 2.99 g | Cl.O1CC(CC2=CC=CC=C12)CCNCCC(=O)OC
reactant | water | 40 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | N-[2-(chroman-3-yl)ethyl]-N-(2-carboxyethyl)-amine hydrochloride | 2.5 g, 87.5% | Cl.O1CC(CC2=CC=CC=C12)CCNCCC(=O)O | InChI=1S/C14H19NO3.ClH/c16-14(17)6-8-15-7-5-11-9-12-3-1-2-4-13(12)18-10-11;/h1-4,11,15H,5-10H2,(H,16,17);1H
